US06335353B1
1-Ethyl-2-hydroxymethyl-3-hydroxy-6-methyl-pyridin-4(1H)-one hydrochloride
1.3 g (4 mmol) 1-ethyl-2-methoxymethyl-3-benzyloxy-6-methyl-pyridin-4(1H)-one hydrochloride was added to 40 ml of 4N hydrochloric acid and refluxed for 6 hours. Concentration to dryness in vacuo afforded the crude product. Recrystallisation from methanol/diethyl ether gave the pure title compound (0.7 g, 80%) as a yellow crystalline solid. m.p. 160-162° C.

reactant | 1-ethyl-2-methoxymethyl-3-benzyloxy-6-methyl-pyridin-4(1H)-one hydrochloride | 4 mmol, 1.3 g | Cl.C(C)N1C(=C(C(C=C1C)=O)OCC1=CC=CC=C1)COC
solvent | hydrochloric acid | 4N, 40 ml | Cl | ClH
product | 1-Ethyl-2-hydroxymethyl-3-hydroxy-6-methyl-pyridin-4(1H)-one hydrochloride | 0.7 g, 80% | Cl.C(C)N1C(=C(C(C=C1C)=O)O)CO | InChI=1S/C9H13NO3.ClH/c1-3-10-6(2)4-8(12)9(13)7(10)5-11;/h4,11,13H,3,5H2,1-2H3;1H
